US06544985B2
3-(8-Dimethylamino-7-methyl-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-benzonitrile
The title compound was prepared from {2-[3-(3-Cyano-phenyl)-3-oxo-propionyl-amino]-4-dimethylamino-5-methyl-phenyl}-carbamic acid tert-butyl ester (Example M76) (0.24 g, 0.55 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a pale yellow solid (114 mg, 59%).

reactant | {2-[3-(3-Cyano-phenyl)-3-oxo-propionyl-amino]-4-dimethylamino-5-methyl-phenyl}-carbamic acid tert-butyl ester | 0.55 mmol, 0.24 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)N(C)C)NC(CC(=O)C1=CC(=CC=C1)C#N)=O)=O | C24H28N4O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(8-Dimethylamino-7-methyl-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-benzonitrile | CN(C=1C(=CC2=C(N=C(CC(N2)=O)C=2C=C(C#N)C=CC2)C1)C)C | C19H18N4O
